US07279473B2
N-Cyclopropyl-4-[6-(phenylsulfanyl)pyrazolo[1,5-b]pyridazin-3-yl]-2-pyrimidinamine
To a solution of 3-[2-(cyclopropylamino)-4-pyrimidinyl]pyrazolo[1,5-b]pyridazin-6-yl trifluoromethanesulfonate (250 mg, 0.625 mmol) in DMSO (8 mL) was added Pd(PPh3)4 (29 mg, 0.025 mmol), benzene thiol (0.064 mL, 0.625 mmol), and NaOtBu (120 mg, 1.31 mmol). The reaction mixture was heated at an oil bath temperature of 100° C. for about 2 hours. The mixture was cooled to RT and water (40 mL) was added. The aqueous layer was washed with EtOAc (3×60 mL). The combined organic layers were dried (MgSO4) and concentrated in vacuo and purified by silica-gel column chromatography (gradient 50-100% EtOAc in hexanes) to give the title compound as a yellow solid (80 mg, 36%). 1H-NMR (400 MHz, CDCl3) δ 8.90 (d, 1H, J=9.1 Hz), 8.34 (s, 1H), 8.29 (bs, 1H), 7.67 (m, 2H), 7.47 (m, 3H), 6.92 (d, 1H, J=5.3 Hz), 6.88 (d, 1H, J=9.4 Hz), 5.38 (s, 1H), 2.82 (m, 1H), 0.85 (m, 2H), 0.61 (m, 2H); MS (ESI) (M+H)+ 361.

reactant | 3-[2-(cyclopropylamino)-4-pyrimidinyl]pyrazolo[1,5-b]pyridazin-6-yl trifluoromethanesulfonate | 0.625 mmol, 250 mg | FC(S(=O)(=O)OC=1C=CC=2N(N1)N=CC2C2=NC(=NC=C2)NC2CC2)(F)F | C14H11F3N6O3S
reactant | benzene thiol | 0.625 mmol, 0.064 mL | C1(=CC=CC=C1)S | C6H6S
reactant | NaOtBu | 1.31 mmol, 120 mg | CC(C)(C)[O-].[Na+]
reactant | water | 40 mL | O | H2O
solvent | DMSO | 8 mL | CS(=O)C | C2H6OS
catalyst | Pd(PPh3)4 | 0.025 mmol, 29 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-Cyclopropyl-4-[6-(phenylsulfanyl)pyrazolo[1,5-b]pyridazin-3-yl]-2-pyrimidinamine | 80 mg, 36% | C1(CC1)NC1=NC=CC(=N1)C=1C=NN2N=C(C=CC21)SC2=CC=CC=C2 | C19H16N6S
